US05856326
Step A: N-Methyl-N-methoxy-2-(1-triphenylmethyl-1H-imidazol-4-yl)acetamide
To a solution of 4-imidazoleacetic acid (1.04 g, 6.40 mmol) and triphenylmethyl bromide (2.48 g, 7.68 mmol) in dimethylformamide (40 ml) was added triethylamine (4.46 ml, 32 mmol) and the suspension allowed to stir for 18 hours at room temperature. After this time, the mixture was treated with 3-hydroxy-1,2,3-benzotriazin-4(3)-one (HOOBT) (1.31 g, 8 mmol), N, O-dimethylhydroxyamine hydrochloride (1.56 g, 16 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC) (1.53 g, 8 mmol) and stirred for 24 hours at room temperature. After this time, sat. aq. sodium bicarbonate (50 ml) and water (50 ml) were added and the mixture was extracted with ethyl acetate (2×100 ml). The combined extracts were washed with sat. aq. NaHCO3 (100 ml) and then brine (50 ml) and the solvent evaporated in vacuo. The residue was suspended in ether (20 ml) and the white solid filtered to give the title compound as a white solid. 1NMR(CD3OD, 300 MHz) δ 7.37(10H, m), 7.16(6H, m), 6.84(1H, s), 3.73(2H, s), 3.68(3H, s) and 3.18(3H, s)ppm.

reactant | 4-imidazoleacetic acid | 6.40 mmol, 1.04 g | N1C=NC(=C1)CC(=O)O | C5H6N2O2
reactant | triphenylmethyl bromide | 7.68 mmol, 2.48 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C19H15Br
reactant | triethylamine | 32 mmol, 4.46 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 8 mmol, 1.53 g | Cl.CN(CCCN=C=NCC)C
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | N-Methyl-N-methoxy-2-(1-triphenylmethyl-1H-imidazol-4-yl)acetamide | CN(C(CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)OC | C26H25N3O2
